US06809110B2
In analogy to the procedure described in example 1 d], [rac]-2-ethoxy-3-(3-fluoro-4-hydroxy-phenyl)-propionic acid ethyl ester (example 7 a]) was reacted with 2-(2-benzo[1,3]dioxol-5-yl-5-methyl-thiazol-4-yl)-ethanol (prepared from [rac]-4-bromo-3-oxo-pentanoic acid methyl ester [PCT Int. Appl. (2001), WO 01/792023 and benzo[1,3]dioxole-5-carbothioic acid amide in analogy to the procedures described in examples 12 a] and 12 b]) in tetrahydrofuran in the presence of triphenylphosphine and DEAD (diethyl azodicarboxylate) to yield [rac]-3-{4-[2-(2-benzo[1,3]dioxol-5-yl-5-methyl-thiazol-4-yl)-ethoxy]-3-fluoro-phenyl)-2-ethoxy-propionic acid ethyl ester, which was further saponified in analogy to the procedure described in example 4 e], to yield [rac]-3-{4-[2-(2-benzo[1,3]dioxol-5-yl-5-methyl-thiazol-4-yl)-ethoxy]-3-fluoro-phenyl}-2-ethoxy-propionic acid as colorless solid.

reactant | [rac]-2-ethoxy-3-(3-fluoro-4-hydroxy-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)O)F)OCC)=O | C13H17FO4
reactant | 2-(2-benzo[1,3]dioxol-5-yl-5-methyl-thiazol-4-yl)-ethanol | O1COC2=C1C=CC(=C2)C=2SC(=C(N2)CCO)C | C13H13NO3S
reactant | [rac]-4-bromo-3-oxo-pentanoic acid methyl ester | COC(CC(C(C)Br)=O)=O | C6H9BrO3
reactant | benzo[1,3]dioxole-5-carbothioic acid amide | O1COC2=C1C=CC(=C2)C(N)=S | C8H7NO2S
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [rac]-3-{4-[2-(2-benzo[1,3]dioxol-5-yl-5-methyl-thiazol-4-yl)-ethoxy]-3-fluoro-phenyl)-2-ethoxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)OCCC=1N=C(SC1C)C1=CC2=C(OCO2)C=C1)F)OCC)=O | C26H28FNO6S
